US05510520
0.874 g (7.65 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine of α!D20 =-36°-7° (c 4.14, H2O) and 1.63 g (7.61 mmol) of dl-threo-1,2-diphenyl-1,2-ethanediol were added to 7 ml of benzene and then heated/dissolved therein, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 5 ml of benzene to obtain 0.765 g (2.33 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine·(1S,2S)-(-)-1,2-diphenyl-1,2-ethanediol complex. 1 ml of ethanol and 10 ml of 1M hydrochloric acid were added to the above-mentioned crystals under ice cooling, followed by stirring for 30 minutes. The solution was extracted with methylene chloride, washed with water, dried over anhydrous sodium sulfate, and then concentrated to obtain 0.499 g (2.33 mmol) of (1S,2S)-(-)-1,2-diphenyl-1,2-ethanediol.

reactant | (1R,2R)-(-)-1,2-cyclohexanediamine | 7.65 mmol, 0.874 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | H2O | O | H2O
reactant | benzene | 7 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | (1S,2S)-(-)-1,2-diphenyl-1,2-ethanediol | 2.33 mmol, 0.499 g, Yield=61% | C1(=CC=CC=C1)[C@@H]([C@@H](O)C1=CC=CC=C1)O | C14H14O2
